US06638929B2
7,8-Dimethoxy-4-oxo-1,4-dihydrobenzo[g]quinoline-3-carbonitrile
To a solution of 2.6 mL (6.3 mmol) of n-butyllithium (2.5M in hexane) in 2.0 ml of THF is added dropwise a solution of 0.36 mL (6.9 mmol) of acetonitrile in 6 mL of THF at −78° C. After completion of addition, the suspension is stirred for 15 minutes. To this is added 496.7 mg (1.57 mmol) of 3-(dimethylaminomethyleneamino)-6,7-dimethoxy-naphthalene-2-carboxylic acid methyl ester in 15 mL of THF dropwise. The resulting reaction mixture is stirred at −78° C. for 1.5 hours. Then 942.8 mg (15.7 mmol) of acetic acid is added dropwise. The reaction mixture is warmed to room temperature and is diluted with water. The precipitate is collected by filtration and washed with water and methanol. After drying in vacuo, this yields 406.0 mg(92.3%) of the product as a light brown solid, mp>265° C.

reactant | n-butyllithium | 6.3 mmol, 2.5M, 2.6 mL | C(CCC)[Li]
reactant | acetonitrile | 6.9 mmol, 0.36 mL | C(C)#N | C2H3N
reactant | 3-(dimethylaminomethyleneamino)-6,7-dimethoxy-naphthalene-2-carboxylic acid methyl ester | 1.57 mmol, 496.7 mg | COC(=O)C1=CC2=CC(=C(C=C2C=C1N=CN(C)C)OC)OC | C17H20N2O4
reactant | acetic acid | 15.7 mmol, 942.8 mg | C(C)(=O)O | C2H4O2
solvent | THF | 2.0 ml | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 7,8-Dimethoxy-4-oxo-1,4-dihydrobenzo[g]quinoline-3-carbonitrile | COC=1C(=CC2=C(C=C3C(C(=CNC3=C2)C#N)=O)C1)OC | C16H12N2O3
